US07767675B2
Step 4. 2,3-difluoro-N-methyl-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzamide
A mixture of 2,3-difluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoic acid (9.0 mg, 0.020 mmol), methylamine (2M in THF, 0.02 mL, 0.041 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (11 mg, 0.024 mmol) and N,N-diisopropylethylamine (11 μL, 0.061 mmol) in N,N-dimethylformamide (0.5 mL) was stirred at RT for 4 h. The reaction mixture was purified by RP-HPLC (pH 10) to afford the desired product. LCMS: (M+H)=456.0.

reactant | 2,3-difluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoic acid | 0.020 mmol, 9.0 mg | FC1=C(C(=O)O)C=CC(=C1F)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C25H16F2N4O2
reactant | methylamine | 0.041 mmol, 2M, 0.02 mL | CN | CH5N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.024 mmol, 11 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.061 mmol, 11 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 2,3-difluoro-N-methyl-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzamide | FC1=C(C(=O)NC)C=CC(=C1F)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C26H19F2N5O
